US07665835B2
Didodecylurea was prepared as follows: Dodecylamine (37 mmol, 6.84 g, commercially available from Sigma Aldrich Fine Chemicals, Milwaukee, Wis.) was dissolved in hexane (100 ml) in a 250 ml single neck, round bottomed flask. A solution of dodecyl isocyanate (37 mmol, 7.8 g, commercially available from Sigma Aldrich Fine Chemicals) in hexane (100 ml) was slowly added to the amine solution through an addition funnel. The mixture was stirred for 1 hr during which a white precipitate was formed. IR was used to confirm completion of reaction. The white precipitate was filtered and dried under vacuum overnight to give 14.64 g of a white solid (99.7% yield). The product is believed to be of the formula

reactant | Dodecylamine | C(CCCCCCCCCCC)N | C12H27N
reactant | dodecyl isocyanate | C(CCCCCCCCCCC)N=C=O | C13H25NO
solvent | hexane | 100 ml | CCCCCC | C6H14
solvent | hexane | 100 ml | CCCCCC | C6H14
product | Didodecylurea | C(CCCCCCCCCCC)NC(NCCCCCCCCCCCC)=O | C25H52N2O
